US07250418B2
Preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting 2-bromo pyrimidine provided the title compound as an amporphous solid: 1H NMR (400 MHz, CDCl3) δ) 8.38, 7.50, 7.32, 7.26, 6.56, 5.30, 4.91, 4.25, 3.94, 3.76, 3.55, 2.73, 2.47, 1.33–1.26, 1.16; HRMS (ESI) calcd for C24H28N6OCl2+H1 487.1780. found 487.1770.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 2-bromo pyrimidine | BrC1=NC=CC=N1 | C4H3BrN2
product | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-pyrimidin-2-ylpyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C1=NC=CC=N1)CC | C24H28Cl2N6O
